US06498172B1
3-(3-{[(4-Chloro-benzenesulfonyl)-(4-pyrazin-2-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester
The title compound of Step A was prepared from 3-{3-[(4-pyrazin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, prepared in Step A of Example 11x, and 4-chlorobenzenesulfonyl chloride, following the method described in Example 1, Step B using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 8.99 (s, 1H), 8.62 (m, 1H), 8.51 (d, 1H), 7.89 (d, 2H), 7.79 (d, 2H), 7.49 (d, 2H), 7.22 (m, 2H), 7.14 (m, 1H), 7.05 (d, 1H), 6.89 (d, 1H), 6.81 (s, 1H), 4.37 (s, 2H), 4.32 (s, 2H), 3.64 (s, 3H), 2.80 (t, 2H), 2.49 (t, 2H); MS 536 (M+1).

reactant | 3-{3-[(4-pyrazin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC=CN=C1)=O | C22H23N3O2
reactant | 4-chlorobenzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(4-Chloro-benzenesulfonyl)-(4-pyrazin-2-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C1=NC=CN=C1)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C28H26ClN3O4S
